US07105544B2
Isopropyl 3-[1-(3-{[2-(4-Chlorophenyl)-2-Methylpropanoyl]Amino}Propyl)-4-Piperidinyl]Phenylcarbamate
Example 142 was prepared from 2-(4-chlorophenyl)-2-methylpropanoic acid and isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.29–7.22 (m, 3H), 7.20–7.11 (m, 3H), 7.09–7.06 (m, 1H), 6.79 (d, 1H, J=7.6 Hz), 6.61 (s, 1H), 6.60–6.50 (m, 1H), 4.94 (septet, 1H, J=6.7 Hz), 4.05 (q, 1H, J=6.8 Hz), 3.24 (q, 2H, J=5.9 Hz), 2.86–2.79 (m, 2H), 2.36 (tt, 1H, J=11.9, 3.2 Hz), 2.27 (t, 2H, J=6.3 Hz), 1.85 (t, 2H, J=11.9 Hz), 1.72–1.66 (m, 2H), 1.60–1.52 (m, 3H), 1.48 (s, 6H), 1.23 (d, 6H, J=6.7 Hz); ESMS m/e: 500.2 (M+H)+.

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | isopropyl 3-[1-(3-aminopropyl)-4-piperidinyl]phenylcarbamate | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O | C18H29N3O2
product | Isopropyl 3-[1-(3-{[2-(4-Chlorophenyl)-2-Methylpropanoyl]Amino}Propyl)-4-Piperidinyl]Phenylcarbamate | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(OC(C)C)=O)(C)C | C28H38ClN3O3
